US05447637
Phossy water used to condense elemental phosphorus was neutralized by adding alkaline ammonium compounds instead of soda ash. The ammonium compounds reacted with fluosilicic acid in the phossy water to form ammonium fluosilicate which has greater solubility in water than does sodium fluosilicate. Nevertheless, sodium and potassium fluosilicates continued to precipitate in phossy water because sodium and potassium compounds volatilize from the phosphorus furnace and sufficient sodium and. potassium collects in the phossy water to form scales.

reactant | phosphorus | [P] | P
reactant | ammonium | [NH4+]
reactant | fluosilicic acid | F.F.F[Si](F)(F)F
solvent | water | O | H2O
product | ammonium fluosilicate | [NH4+].[NH4+].F[Si-2](F)(F)(F)(F)F | InChI=1S/F6Si.2H3N/c1-7(2,3,4,5)6;;/h;2*1H3/q-2;;/p+2
